US06960575B2
{(3R)-4-Acetyl-6-(3-benzyloxyphenyl)-3-isopropyl-2-oxo-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid (Reference compound No. 64-1)
A 4 N aqueous lithium hydroxide solution (1.5 ml) is added to a solution of benzyl {(3R)-4-acetyl-6-(3-benzyloxyphenyl)-3-isopropyl-2-oxo-1,2,3,4-tetrahydropyrazin-1-yl}acetate (276 mg, Reference compound No. 63-1) in ethanol (8 ml)/diethyl ether (2 ml), and the mixture is stirred overnight. To the reaction mixture is added 6 N hydrochloric acid to acidify the system, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the titled reference compound (215 mg).

reactant | lithium hydroxide | 4 N, 1.5 ml | [OH-].[Li+]
reactant | benzyl {(3R)-4-acetyl-6-(3-benzyloxyphenyl)-3-isopropyl-2-oxo-1,2,3,4-tetrahydropyrazin-1-yl}acetate | C(C)(=O)N1[C@@H](C(N(C(=C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1)=O)C(C)C | C31H32N2O5
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | {(3R)-4-Acetyl-6-(3-benzyloxyphenyl)-3-isopropyl-2-oxo-1,2,3,4-tetrahydropyrazin-1-yl}acetic acid | 215 mg | C(C)(=O)N1[C@@H](C(N(C(=C1)C1=CC(=CC=C1)OCC1=CC=CC=C1)CC(=O)O)=O)C(C)C | C24H26N2O5
